US05338856
C. Preparation of 5-Methylthio-3-(trifluoromethyl)isothiazole
5-Methylthio-3-(trifluoromethyl)isothiazole-4-carboxylic acid (9.4 g, 39 mmol) was dissolved in 15 mL of quinoline and 0.6 g (4.2 mmol) of cuprous oxide was added. The mixture was heated at 170° C. for about 30 min and then allowed to cool. It was then diluted with ether and the resulting solution was washed with 100 mL of 2N hydrochloric acid, dried over sodium bicarbonate, filtered, and distilled to obtain 6.55 g (85 percent of theory) of the title compound as a colorless liquid boiling at 126°-127° C. at 84 mm Hg (11 kPa (kiloPascals)) pressure.

reactant | 5-Methylthio-3-(trifluoromethyl)isothiazole-4-carboxylic acid | 39 mmol, 9.4 g | CSC1=C(C(=NS1)C(F)(F)F)C(=O)O | C6H4F3NO2S2
solvent | quinoline | 15 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ether | CCOCC | C4H10O
product | 5-Methylthio-3-(trifluoromethyl)isothiazole | CSC1=CC(=NS1)C(F)(F)F | C5H4F3NS2
